US07790707B2
1-(4-tert-Butylphenyl)-3-(4-(hydroxymethyl)phenyl)imidazolidin-2-one (Step 4 in Scheme 1)
A solution of methyl 4-(3-(4-tert-butylphenyl)-2-oxoimidazolidin-1-yl)benzoate (270 mg, 0.77 mmol) in dichloromethane (50 ml) at −78° C. was treated with ml of 1.0 M DIBAL solution in dichloromethane. The resulting solution was stirred cold for 2 hour, then quenched with ml of sat's Rochelle salt solution. The mixture was partitioned between 100 ml dichloromethane and 50 ml of 1 N NaOH. The organic layer was separated, dried and concentrated. The residue was purified on ISCO system (5% methanol in dichloromethane) to give a pure product as a white crystalline (113 mg, 35%): 1H NMR (400 MHz, CDCl3) δ 7.60 (d, 2H), 7.50 (d, 2H), 7.10 (m, 4H), 4.64 (s, 2H), 4.00 (s, 4H), 1.58 (s, 9H).

reactant | methyl 4-(3-(4-tert-butylphenyl)-2-oxoimidazolidin-1-yl)benzoate | 0.77 mmol, 270 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C(=O)OC)C=C1)=O | C21H24N2O3
reactant | DIBAL | 1.0 M | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-tert-Butylphenyl)-3-(4-(hydroxymethyl)phenyl)imidazolidin-2-one | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CO)=O | C20H24N2O2
